US04100167
A mixture of propionitrile (5.5 g, 0.1 mole), phosphorous acid (16.4 g, 0.2 mole), ISOPAR-M (22 g), and wetting agents (0.5 g each) was heated under nitrogen at ambient pressure for 2 hours at 150° C. The product was worked up with ethanol. Colorless crystals of 1-amino-1,1-diphosphono propane (52% yield), m.p. 282° C was obtained.

reactant | propionitrile | 0.1 mole, 5.5 g | C(CC)#N | C3H5N
reactant | phosphorous acid | 0.2 mole, 16.4 g | P(O)(O)O | H3O3P
solvent | ethanol | C(C)O | C2H6O
product | 1-amino-1,1-diphosphono propane | 52% yield | NC(CC)(P(=O)(O)O)P(=O)(O)O | C3H11NO6P2
